US03943141
a. 1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid
1,4-Dihydro-1-(2-hydroxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (1 g) in ethanol (30 ml) and aqueous sodium hydroxide (10 ml, 40%) was treated alternatively with dimethyl sulphate (5 ml) and aqueous sodium hydroxide (10 ml, 40 %) until dimethylsulphate (25 ml) had been added. The mixture was refluxed for 1.5 hours and concentrated to a volume of 20 ml. Concentrated hydrochloric acid was added and the solid was collected and washed with water and dried. The product had m.p. 244°-245° (d).

reactant | 1,4-Dihydro-1-(2-hydroxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1 g | OCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C12H12N2O4
reactant | dimethyl sulphate | 5 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethylsulphate | 25 ml | COS(=O)(=O)OC | C2H6O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | COCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C13H14N2O4
